US06846818B2
Ethyl isocyanate (71.37 ml, 2.5 eq) was added to a solution of 5-chlorooxindole (60.45 g, 1.0 eq) in 500 ml xylenes. The reaction mixture was heated under reflux for 2 hours (138° C.) and then cooled to room temperature and evaporated to dryness. Isopropyl ether (500 ml) was added to the reaction vessel and the mixture was heated to 60° C. and stirred about 2 hours before cooling overnight in an ice bath to promote crystallization of the product. The white crystalline product was collected by filtration, washed once with isopropyl ether and then dried under vacuum to afford 5-Chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethylamide in 90% yield (78.0 g), mp 121-122° C.

reactant | Ethyl isocyanate | 71.37 ml, 2.5 eq | C(C)N=C=O | C3H5NO
reactant | 5-chlorooxindole | 60.45 g, 1.0 eq | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 5-Chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethylamide | 90% yield | C(C)NC(=O)N1C(CC2=CC(=CC=C12)Cl)=O | C11H11ClN2O2
